US04014813
By a second method of synthesis, a hafnium compound is reacted with phosphoric acid or P2O5 and water. The second method yields pure hafnium pyrophosphate that is substantially free of residual oxide. Residual oxide is always present as a second phase together with the pyrophosphates when the novel phosphors are prepared by the foregoing first method. In one embodiment of the second method, the synthesis is done by reacting hafnium oxychloride and phosphoric acid (or a solution of P2O5 and water). A mixture of hafnium oxychloride and phosphoric acid is first heated while stirring in a Teflon container on a hot plate. Then the mixture is transferred to a silica container. The container and contents are heated gradually to 1000° C. First, the temperature of the container is raised to 400° , then to 800° , and then to 1000° C, soaking the contents for a few hours at each of the mentioned temperatures. After the heat treatment at 1000° C, the material is cooled to room temperature, crushed and ground. Then, the ground material is heated in air at 1200° C.

reactant | hafnium | [Hf] | Hf
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | P2O5 | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | water | O | H2O
product | hafnium pyrophosphate | [O-]P([O-])(=O)OP(=O)([O-])[O-].[Hf+4] | InChI=1S/Hf.H4O7P2/c;1-8(2,3)7-9(4,5)6/h;(H2,1,2,3)(H2,4,5,6)/q+4;/p-4
